US05594023
3-[[2-(1-tert-Butoxycarbonylpiperid-4-yl)ethyl]amino]-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-6-methylindol-2-one
A solution of 1.35 g of 4-(2-aminoethyl)-1-(tert-butoxycarbonyl)piperidine and 1.75 g of triethylamine in 20 ml of THF is added dropwise at RT to a solution of 2.1 g of 3-bromo-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-6-methylindol-2-one, obtained in step B' of Preparation 71, in 20 ml of THF and the reaction mixture is stirred for 1 hour at RT. It is concentrated under vacuum, the residue is taken up with 400 ml of AcOEt and 50 ml of THF, the resulting suspension is washed twice with a 5% solution of sodium carbonate, with water and with a saturated solution of NaCl and, after decantation, the solid in suspension is filtered off. The solid is dissolved in 400 ml of boiling THF and dried over sodium sulfate and the solvent is partially evaporated off under vacuum. The crystalline product formed is filtered off to give 1.65 g of the expected product. M.p.=245°-248° C.

reactant | 4-(2-aminoethyl)-1-(tert-butoxycarbonyl)piperidine | 1.35 g | NCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | triethylamine | 1.75 g | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-6-methylindol-2-one | 2.1 g | BrC1(C(NC2=CC(=C(C=C12)Cl)C)=O)C1=C(C=CC=C1)Cl | C15H10BrCl2NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-[[2-(1-tert-Butoxycarbonylpiperid-4-yl)ethyl]amino]-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-6-methylindol-2-one | 1.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC1(C(NC2=CC(=C(C=C12)Cl)C)=O)C1=C(C=CC=C1)Cl | C27H33Cl2N3O3
